US07323567B2
b) 7,8-Diamino-6-bromo-4,4-dimethylisoquinoline-1,3(2H,4H)-dione
A mixture of 7-amino-6-bromo-4,4-dimethyl-8-nitroisoquinoline-1,3(2H,4H)-dione (2 g, 6.09 mmol) and iron powder (325 mesh, 2.38 g, 42.67 mmol) in AcOH (40 mL) was heated to 70° C. for 8 h. The excess iron was removed using a magnetic bar and the reaction mixture was concentrated under reduced pressure. The residue was diluted with EtOAc, and successively washed with water, aqueous saturated NaHCO3, and brine, dried (MgSO4), filtered and concentrated under reduced pressure to give the title compound (1.92 g, 100% yield).

reactant | 7-amino-6-bromo-4,4-dimethyl-8-nitroisoquinoline-1,3(2H,4H)-dione | 6.09 mmol, 2 g | NC1=C(C=C2C(C(NC(C2=C1[N+](=O)[O-])=O)=O)(C)C)Br | C11H10BrN3O4
solvent | AcOH | 40 mL | CC(=O)O | C2H4O2
catalyst | iron | 42.67 mmol, 2.38 g | [Fe] | Fe
product | 7,8-Diamino-6-bromo-4,4-dimethylisoquinoline-1,3(2H,4H)-dione | 1.92 g, 100% yield | NC1=C(C=C2C(C(NC(C2=C1N)=O)=O)(C)C)Br | C11H12BrN3O2
